US05037849
2-Aminocarbonylamino-2-methyl-N-(2-nitroxyethyl)-propionic acid amide
0.77 g. 2-Amino-2-methyl-N-(2-nitroxyethyl)-propionic acid amide fumarate is dissolved in 7.5 ml. methanol and 2.5 ml. water and 0.81 g. potassium cyanate added thereto. The reaction mixture is stirred for 10 minutes at ambient temperature and then 0.30 g. acetic acid added thereto. After stirring overnight, the inorganic salts are precipitated out by the addition of 25 ml. ethyl acetate and filtered off with suction. The filtrate is dried over anhydrous sodium sulphate, filtered with suction and evaporated, 0.60 g. of crude product being obtained. This is triturated with diethyl ether and filtered off with suction. There is obtained 0.40 g. of the title compound, i.e. 68% of theory; m.p. 98°-100° C.

reactant | 2-Amino-2-methyl-N-(2-nitroxyethyl)-propionic acid amide fumarate | C(\C=C\C(=O)O)(=O)O.NC(C(=O)NCCO[N+](=O)[O-])(C)C
reactant | methanol | CO | CH4O
reactant | water | O | H2O
reactant | potassium cyanate | [O-]C#N.[K+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Aminocarbonylamino-2-methyl-N-(2-nitroxyethyl)-propionic acid amide | NC(=O)NC(C(=O)NCCO[N+](=O)[O-])(C)C | C7H14N4O5
